US07173058B2
To a solution of 3-(3,4-bis-difluoromethoxy-phenyl)-3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid (400 mg, 0.81 mmol) in tetrahydrofurane was added carbonyldiimidazole (200 mg, 1.21 mmol) at room temperature. The solution was stirred for 2 hours at room temperature. To the mixture was added ammonium hydroxide (0.12 ml, 1.6 mmol). The resulted mixture was stirred at room temperature for 2 hours. Water (5 ml) was added to the reaction mixture. THF was removed in vacuo and the resulted mixture was taken up in ethyl acetate (20 ml). The organic layer was washed with saturated sodium bicarbonate solution (3×10 ml), water (10 ml), brine (10 ml) and was dried over magnesium sulfate. The solvent was removed in vacuo. The resulted oil was purified by HPLC (acetonitrile:water=45:55) to give cyclopropanecarboxylic acid {2-[1-(3,4-bis-difluoromethoxy-phenyl) -2-carbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (230 mg, 46%): mp, 198–200° C.; 1HNMR (DMSO-d6): δ 0.87 (d, J=5 Hz, 4H, cyclopropyl ring CH2CH2), 1.74–1.79 (m, 1H, cyclopropyl ring CH), 2.99 (d, J=7.5 Hz, 2H, CH2CONH2), 4.29 (d, J=18 Hz, 1H, CHHN), 4.61 (d, J=18 Hz, 1H, CHHN), 5.69–5.75 (m, 1H, CHN), 6.97 (broad, 1H, NHH), 7.19 (t, JH-F=75 Hz, 1H, OCF2H), 7.22 (t, JH-F=75 Hz, 1H, OCF2H), 7.34–7.37 (m, 3H, Ar), 7.47–7.58 (m, 2H, NHH+1Ar), 8.23 (d, J=8 Hz, 1H, Ar), 10.51 (s, 1H, NHCO); 13C NMR (CDCl3):8.26, 15.95, 38.10, 47.37, 51.89, 112.77, 112.90, 116.90, 117.03, 117.40, 117.70, 117.99, 120.57, 121.03, 121.16, 121.74, 125.72, 133.38, 137.51, 138.81, 141.60, 141.65, 141.70, 142.15, 142.20, 142.25, 142.79, 168.74, 171.37, 172.24; Anal. Calcd. for C23H21F4N305: C, 55.76; H, 4.27; N, 8.48. Found: C, 55.98; H, 4.00; N, 8.46.

reactant | 3-(3,4-bis-difluoromethoxy-phenyl)-3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid | 0.81 mmol, 400 mg | FC(OC=1C=C(C=CC1OC(F)F)C(CC(=O)O)N1C(C2=C(C=CC=C2C1)NC(=O)C1CC1)=O)F | C23H20F4N2O6
reactant | carbonyldiimidazole | 1.21 mmol, 200 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 1.6 mmol, 0.12 ml | [OH-].[NH4+]
reactant | Water | 5 ml | O | H2O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | cyclopropanecarboxylic acid {2-[1-(3,4-bis-difluoromethoxy-phenyl) -2-carbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 230 mg, 46% | FC(OC=1C=C(C=CC1OC(F)F)C(CC(N)=O)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1)F | C23H21F4N3O5
